US06509329B1
Synthesis of 4-methyl-2-(3,4,5-Trimethoxyphenyl)-pyrimidine
2-Bromo−4-methylpyrimidine (1.5 g) and 3,4,5-trimethoxyphenylboronic acid (1.83 g) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 2-Bromo−4-methylpyrimidine | 1.5 g | BrC1=NC=CC(=N1)C | C5H5BrN2
reactant | 3,4,5-trimethoxyphenylboronic acid | 1.83 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
product | 4-methyl-2-(3,4,5-Trimethoxyphenyl)-pyrimidine | CC1=NC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H16N2O3
